US04593102
3-[(4-Methoxyphenyl)sulfonyl]pyrrolidine hydrochloride
A solution of 15.5 g (0.060 mole) of 3-[(4-chlorophenyl)sulfonyl]pyrrolidine hydrochloride and 9.0 g (0.167 mole) of sodium methoxide in 200 ml of dimethylsulfoxide was stirred at 100° C. for 2 hours. The solvent was removed in vacuo and the residue was partitioned between methylene chloride and water. The methylene chloride solution was dried over magnesium sulfate and the solvent was removed in vacuo to give an oil, the free base of the title compound. The hydrochloride salt was prepared, recrystallizing from methanol-diethyl ether to give 9.1 g (55%) of white crystalline solid, m.p. 181°-182° C.

reactant | 3-[(4-chlorophenyl)sulfonyl]pyrrolidine hydrochloride | 0.060 mole, 15.5 g | Cl.ClC1=CC=C(C=C1)S(=O)(=O)C1CNCC1
reactant | sodium methoxide | 0.167 mole, 9.0 g | C[O-].[Na+]
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 3-[(4-Methoxyphenyl)sulfonyl]pyrrolidine hydrochloride | Cl.COC1=CC=C(C=C1)S(=O)(=O)C1CNCC1 | InChI=1S/C11H15NO3S.ClH/c1-15-9-2-4-10(5-3-9)16(13,14)11-6-7-12-8-11;/h2-5,11-12H,6-8H2,1H3;1H
